US06921821B2
6-Chloro-1-(2,2,2-trifluoro-ethyl)-1H-quinazoline-2,4-dione
To a solution of 3-tert-butyl-6-chloro-1H-quinazoline-2,4-dione (1.0 g, 3.97 mmol) in acetonitrile (40 mL) was added trifluoroethyl triflate (0.736 mL, 4.76 mmol) and potassium carbonate (821 mg, 5.95 mmol). The reaction was heated to 50° C. and stirred 48 hrs. The solution was cooled, concentrated, and dissolved in ethyl acetate. The solution was washed with sodium bicarbonate, brine, dried over Na2SO4, filtered, and concentrated. The crude residue was dissolved in acetic acid and treated with 4 mL HBr solution (30 weight % in AcOH). The reaction was stirred for 3 hours at room temperature, and concentrated to provide 1.1 g of yellow solid. 1H NMR (300 MHz, CD3OD) δ ppm 4.96 (q, J=8.7 Hz, 2H), 7.53 (d, J=9.0 Hz, 1H), 7.75 (dd, J=2.6, 9.1 Hz, 1H), 8.07 (d, J=2.7 Hz, 1H); MS (ESI+Q1MS) m/z 279 [M+H]+

reactant | 3-tert-butyl-6-chloro-1H-quinazoline-2,4-dione | 3.97 mmol, 1.0 g | C(C)(C)(C)N1C(NC2=CC=C(C=C2C1=O)Cl)=O | C12H13ClN2O2
reactant | trifluoroethyl triflate | 4.76 mmol, 0.736 mL | O(S(=O)(=O)C(F)(F)F)CC(F)(F)F | C3H2F6O3S
reactant | potassium carbonate | 5.95 mmol, 821 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
product | 6-Chloro-1-(2,2,2-trifluoro-ethyl)-1H-quinazoline-2,4-dione | 1.1 g | ClC=1C=C2C(NC(N(C2=CC1)CC(F)(F)F)=O)=O | C10H6ClF3N2O2
